US04952722
β-Chloropropionyl chloride (71.9 g, 566 mole) was added to a mixture of aluminium chloride (75.5 g, 566 mmole) and ethylene dichloride (200 ml). To this mixture was added p-xylene (60.0 g, 566 mmole) and the solution was stirred at room temperature for 30 minutes, then poured into dilute hydrochloric acid. The organic layer was separated, washed with water and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave 2-(2-chloropropionyl)-2,4-dimethylbenzene a yellowish oil, which was used immediately in the next step of the sequence.

reactant | β-Chloropropionyl chloride | 566 mole, 71.9 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminium chloride | 566 mmole, 75.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-xylene | 566 mmole, 60.0 g | CC=1C=CC(=CC1)C | C8H10
reactant | hydrochloric acid | Cl | ClH
reactant | ethylene dichloride | 200 ml | C(CCl)Cl | C2H4Cl2
product | 2-(2-chloropropionyl)-2,4-dimethylbenzene | ClC(C(=O)C1(CC=CC(=C1)C)C)C | C11H15ClO
